US09337430B2
9,9-Dimethyl-3,6-diphenyl-9,10-dihydroacridine
1.7 g (5.7 mmol) of tri-o-tolylphosphine and then 643 mg (2.8 mmol) of palladium(II) acetate are added to a degassed suspension of 52 g (143 mmol) of 3,6-dibromo-9,9-dimethyl-9,10-dihydroacridine, 38.4 g (315 mmol) of phenylboronic acid and 60 g (286 mmol) of potassium phosphate hydrate in a mixture of 420 ml of dioxane, 840 ml of toluene and 420 ml of water with vigorous stirring. After heating under reflux for 5 h, the mixture is allowed to cool. The precipitate is filtered off with suction, washed three times with 10 ml of ethanol/water (1:1, v:v) and three times with 5 ml of ethanol, subsequently dried in vacuo and recrystallised from dioxane. Yield: 41 g (113 mmol), 81% of theory, purity according to 1H-NMR about 99.9%.

reactant | tri-o-tolylphosphine | 5.7 mmol, 1.7 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 3,6-dibromo-9,9-dimethyl-9,10-dihydroacridine | 143 mmol, 52 g | BrC=1C=CC=2C(C3=CC=C(C=C3NC2C1)Br)(C)C | C15H13Br2N
reactant | phenylboronic acid | 315 mmol, 38.4 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium phosphate hydrate | 286 mmol, 60 g | O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 420 ml | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 2.8 mmol, 643 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 420 ml | O | H2O
solvent | toluene | 840 ml | C1(=CC=CC=C1)C | C7H8
product | 9,9-Dimethyl-3,6-diphenyl-9,10-dihydroacridine | CC1(C2=CC=C(C=C2NC=2C=C(C=CC12)C1=CC=CC=C1)C1=CC=CC=C1)C | C27H23N
